US07253194B2
4-tert-Butoxycarbonylamino-5-(1-trityl-1H-imidazol-4-yl)-pent-2-enoic acid ethyl ester (27)
Ethyl (triphenylphosphoranylidene)acetate (1.52 g, 4.37 mmol) and [1-formyl-2-(1-trityl-1H-imidazol-4-yl)-ethyl]-carbamic acid tert-butyl ester (2.1 g, 4.38 mmol) in THF (35 mL) were stirred overnight under argon. The solvent was removed, Et2O added and the solution filtered. The filtrate was concentrated and the residue subject to column chromatography (silica gel, 25% EA/PE, Rf 0.65 50% EA/PE) to afford the title compound (1.6 g, 67%). ESMS 552 (M+H+) Mpt . 1H NMR (300 MHz, CDCl3) δ 1.28 (3H, t, J=7.5), 1.34 (9H, s), 3.01-3.05 (2H, m), 4.19 (2H, q, J=7.05), 4.47-4.57 (1H, m), 6.01 (1H, dd, J=1.5, 15.9), 6.46 (1H, d, J=9.3), 6.86 (1H, s), 6.89 (1H, dd, J=5.1, 15.9), 7.07-7.11 (5H, m), 7.21-7.3 (2H, m), 7.4-7.44 (8H, m), 8.11 (1H, s). 13C NMR (300 MHz, CDCl3) δ 166.14, 155.87, 139.86, 135.20, 132.21, 129.49, 129.70, 129.01, 128.18, 122.33, 121.19, 79.74, 78.78, 60.76, 52.09, 30.12, 28.35, 14.32.

reactant | Ethyl (triphenylphosphoranylidene)acetate | 4.37 mmol, 1.52 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OCC | C22H21O2P
reactant | [1-formyl-2-(1-trityl-1H-imidazol-4-yl)-ethyl]-carbamic acid tert-butyl ester | 4.38 mmol, 2.1 g | C(C)(C)(C)OC(NC(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O)=O | C30H31N3O3
reactant | THF | 35 mL | C1CCOC1 | C4H8O
product | 4-tert-Butoxycarbonylamino-5-(1-trityl-1H-imidazol-4-yl)-pent-2-enoic acid ethyl ester | 1.6 g, 67% | C(C)OC(C=CC(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C34H37N3O4
